US05246969
Step Preparation of (3S,4S)-N-[(tert-Butyloxy)-carbonyl]-4-amino-5-phenyl-3-(triisopropylsilyloxy)-pentene
A solution of (3S,4S)-N-[(tertbutyloxy)carbonyl]-4-amino-3-hydroxy-5-phenyl pentene [prepared by the method of Hanson et al, J. Org. Chem., 50, 5399 (1985)] (10.0 g, 64.5 mmol), imidazole (9.14g, 13 mmol), and chlorotriisopropylsilane (12.44 g, 43.3 mmol) in anhydrous DMF (40 mL) was stirred for 5 days at room temperature under an N2 atmosphere. The solution was poured into H2O (500 mL) and extracted with Et2O (2×25 mL). The combined organic layers were washed with H2O (250 mL), a 0.5M citric acid solution (2×120 mL), a 5% KHCO3 solution (2×100 mL), and brine (2×100 mL). After the organic layer was dried over MgSO4, the filtrate was concentrated and purified by medium pressure column chromatography (silica gel, 10% ethyl acetate in hexane, Rf 0.23) to give 12.9 g (82 % yield) of the title compound as a clear, colorless oil. 1H and 13C NMR spectral data were consistent with the proposed structure.

reactant | (3S,4S)-N-[(tertbutyloxy)carbonyl]-4-amino-3-hydroxy-5-phenyl pentene | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=C)O)CC1=CC=CC=C1 | C16H23NO3
reactant | imidazole | 13 mmol, 9.14g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 43.3 mmol, 12.44 g | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | H2O | 500 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (3S,4S)-N-[(tert-Butyloxy)-carbonyl]-4-amino-5-phenyl-3-(triisopropylsilyloxy)-pentene | 12.9 g, 82 % yield | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=C)O[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=CC=C1 | C25H43NO3Si
